* Schematics Netlist *



R_R5l         $N_0002 $N_0001  1k  
X_U60         0 $N_0003 p n m uA741
D_D19         $N_0006 $N_0007 D1N4001 
R_R4l         b $N_0006  1K  
R_R6l         $N_0007 $N_0003  1k  
R_R12l         $N_0008 $N_0003  1k  
X_U59         0 $N_0001 p n $N_0008 uA741
D_D20         $N_0008 $N_0001 D1N4001 
X_U58         0 $N_0006 p n $N_0007 uA741
R_R7l         $N_0003 m  19.56K  
V_V21l         p 0 15
V_V20l         0 n 15
V_V18l         $N_0002 0 -1V
X_U70         0 $N_0013 $N_0014 $N_0015 $N_0016 uA741
R_R56         $N_0019 $N_0013  10k  
R_R57         m $N_0013  10k  
R_Rf         $N_0013 $N_0016  10k  
X_U71         0 $N_0020 $N_0021 $N_0022 $N_0023 uA741
R_R17s         $N_0020 $N_0023  1k  
V_V69         0 $N_0015 15
V_V31s         0 $N_0022 15
V_V30s         $N_0021 0 15
V_V70         $N_0014 0 15
R_R62         $N_0027 $N_0026  1k  
X_U74         0 $N_0027 $N_0028 $N_0029 $N_0026 uA741
V_V76         0 $N_0029 15
V_V77         $N_0028 0 15
R_R63         a $N_0027  10k  
R_R64         $N_0032 b  1k  
X_U75         0 $N_0032 $N_0033 $N_0034 b uA741
V_V78         0 $N_0034 15
R_R65         $N_0026 $N_0032  1k  
V_V79         $N_0033 0 15
R_R16s         $N_0016 $N_0020  2.302585093k  
V_V56         a 0 99V
V_V14         $N_0019 0 2.302585093V
