* Schematics Netlist *



R_R1         b $N_0001  10k  
R_R2         q $N_0001  10k  
R_R54         $N_0002 b  1k  
X_U64         0 $N_0002 $N_0003 $N_0004 b uA741
V_V73         0 $N_0004 15
V_V74         $N_0003 0 15
X_U65         0 $N_0007 $N_0008 $N_0009 q uA741
V_V75         $N_0008 0 15
V_V76         0 $N_0009 15
R_R56         $N_0007 q  1k  
R_R57         p $N_0007  100k  
R_R55         a $N_0002  100k  
X_U1         0 $N_0001 $N_0012 $N_0013 $N_0014 uA741
R_Rf         $N_0001 $N_0014  10k  
E_E1         $N_0017 0 $N_0014 0 100
R_R64         $N_0017 0  0.00001  
V_V81         p 0 99V
V_V1         $N_0012 0 15
V_V2         0 $N_0013 15
V_V80         a 0 99V
