* Schematics Netlist *



C_C3d         b $N_0001  0.1592u IC=0 
R_R42         $N_0002 b  1k  
X_U58         0 $N_0002 $N_0003 $N_0004 b uA741
V_V56         0 $N_0004 15
V_V57         $N_0003 0 15
V_V58         a 0 99V
V_V5         $N_0007 0 15
V_V6         0 $N_0008 15
X_U56         0 $N_0001 $N_0007 $N_0008 $N_0009 uA741
R_Rf         $N_0001 $N_0009  1k  
R_R44         $N_0012 0  0.00001  
R_R43         a $N_0002  10k  
E_E1         $N_0012 0 $N_0009 0 10
