* Schematics Netlist *



D_D3         $N_0001 $N_0002 D1N4001 
R_R5         $N_0004 $N_0003  1k  
R_R6         $N_0003 $N_0005  1k  
V_V3         p 0 15
V_V4         0 n 15
X_U4         0 $N_0002 p n $N_0004 uA741
X_U5         0 $N_0003 p n $N_0005 uA741
X_U1         0 $N_0010 p n $N_0011 uA741
D_D1         $N_0010 $N_0011 D1N4001 
R_R12         $N_0015 $N_0014  1k  
X_U6         0 $N_0014 p n $N_0016 uA741
R_R8         k $N_0019  1k  
R_R4         $N_0002 $N_0004  1k  
R_R15         $N_0021 $N_0020  1k  
X_U7         0 $N_0021 p n $N_0020 uA741
D_D2         $N_0019 $N_0024 D1N4001 
X_U2         0 $N_0019 p n $N_0024 uA741
R_R14         $N_0024 $N_0021  1k  
R_R13         $N_0016 $N_0027  1k  
R_R17         $N_0020 $N_0027  1k  
R_R1         $N_0011 $N_0027  1k  
X_U3         0 $N_0027 p n $N_0001 uA741
R_R3         $N_0027 $N_0001  1k  
D_D7         $N_0014 $N_0016 D1N4001 
V_V5         $N_0015 0 1
R_R18         $N_0031 $N_0030  1k  
X_U8         0 $N_0031 $N_0032 $N_0033 $N_0030 uA741
V_V6         0 $N_0033 15
V_V7         $N_0032 0 15
R_R19         a $N_0031  100k  
R_R20         $N_0036 b  1k  
X_U9         0 $N_0036 $N_0037 $N_0038 b uA741
V_V8         0 $N_0038 15
V_V9         $N_0037 0 15
R_R21         $N_0030 $N_0036  1k  
R_R22         $N_0042 $N_0041  1k  
X_U10         0 $N_0042 $N_0043 $N_0044 $N_0041 uA741
V_V10         0 $N_0044 15
V_V11         $N_0043 0 15
R_R23         m $N_0042  100k  
R_R24         $N_0047 k  1k  
X_U11         0 $N_0047 $N_0048 $N_0049 k uA741
V_V12         0 $N_0049 15
V_V13         $N_0048 0 15
R_R25         $N_0041 $N_0047  1k  
R_R7         b $N_0010  1k  
V_V14         m 0 90
V_V1         a 0 99
