* Schematics Netlist *



R_R1         $N_0002 $N_0001  1k  
D_D1         $N_0001 $N_0003 D1N4001 
D_D2         $N_0004 $N_0005 D1N4001 
R_R2         $N_0006 $N_0005  1k  
V_V2         $N_0006 0 -1
R_R3         $N_0003 $N_0007  1k  
R_R4         $N_0004 $N_0007  1k  
R_R5         $N_0007 $N_0008  1k  
X_U1         0 $N_0001 p n $N_0003 uA741
X_U4         0 $N_0005 p n $N_0004 uA741
X_U3         0 $N_0007 p n $N_0008 uA741
V_V5         p 0 15
V_V6         0 n 15
R_R6         $N_0016 $N_0015  1k  
V_V4         $N_0016 0 1
D_D4         $N_0015 $N_0017 D1N4001 
X_U5         0 $N_0015 p n $N_0017 uA741
R_R12         $N_0021 $N_0020  1k  
R_R13         $N_0020 $N_0022  1k  
D_D7         $N_0022 $N_0023 D1N4001 
X_U8         0 $N_0020 p n $N_0022 uA741
X_U9         0 $N_0023 p n $N_0026 uA741
X_U10         0 $N_0029 p n $N_0021 uA741
D_D8         $N_0029 $N_0021 D1N4001 
D_D9         $N_0032 $N_0033 D1N4001 
X_U11         0 $N_0032 p n $N_0033 uA741
R_R15         $N_0023 $N_0026  1k  
R_R16         $N_0036 $N_0032  1k  
R_R20         $N_0038 $N_0037  1k  
V_V7         $N_0038 0 -1
D_D10         $N_0039 $N_0037 D1N4001 
X_U13         0 $N_0037 p n $N_0039 uA741
R_R21         $N_0033 $N_0020  1k  
R_R22         $N_0039 $N_0020  1k  
R_R17         $N_0008 $N_0029  1k  
R_R11         $N_0043 $N_0042  1k  
X_U7         0 $N_0043 p n $N_0042 uA741
R_R9         $N_0047 $N_0046  1k  
X_U6         0 $N_0047 p n $N_0046 uA741
D_D6         $N_0046 $N_0043 D1N4001 
R_R26         $N_0051 $N_0050  1k  
X_U15         0 $N_0051 p n $N_0050 uA741
R_R27         $N_0042 $N_0051  1k  
R_R7         $N_0017 $N_0047  1k  
R_R14         $N_0026 $N_0047  1k  
V_V_base         $N_0002 0 2.718281828
V_V_Power         $N_0036 0 1.5
