* Schematics Netlist *



R_R43         $N_0001 b  1k  
X_U58         0 $N_0001 $N_0002 $N_0003 b uA741
V_V64         0 $N_0003 15
V_V65         $N_0002 0 15
R_R44         a $N_0001  100k  
R_R2i         0 $N_0006  1.446K  
R_R46         $N_0007 0  0.00001  
R_Rfi         $N_0009 $N_0008  15.91K  
R_R1i         b $N_0009  1.591K  
X_U55         $N_0006 $N_0009 $N_0010 $N_0011 $N_0008 uA741
V_V72         0 $N_0011 15V
V_V71         $N_0010 0 15V
E_E2         $N_0007 0 $N_0008 0 100
C_C1i         $N_0009 $N_0008  0.1u IC=0 
V_V74         a 0 90V
