* Schematics Netlist *



D_D3         $N_0001 $N_0002 D1N4001 
X_U4         0 $N_0002 p n $N_0003 uA741
X_U5         0 $N_0006 p n $N_0007 uA741
X_U1         0 $N_0010 p n $N_0011 uA741
D_D1         $N_0010 $N_0011 D1N4001 
D_D2         $N_0014 $N_0015 D1N4001 
X_U2         0 $N_0014 p n $N_0015 uA741
R_R2         $N_0015 $N_0018  1k  
R_R12         $N_0020 $N_0019  1k  
V_V5         $N_0020 0 -1
D_D5         $N_0021 $N_0019 D1N4001 
R_R13         $N_0021 $N_0018  1k  
X_U6         0 $N_0019 p n $N_0021 uA741
R_R8         k $N_0014  1k  
R_R4         $N_0002 $N_0003  1k  
X_U3         0 $N_0018 p n $N_0001 uA741
R_R3         $N_0018 $N_0001  1k  
R_R1         $N_0011 $N_0018  1k  
R_R14         $N_0027 $N_0026  1k  
X_U7         0 $N_0027 $N_0028 $N_0029 $N_0026 uA741
V_V6         0 $N_0029 15
V_V7         $N_0028 0 15
R_R17         a $N_0027  100k  
R_R7         b $N_0010  1k  
R_R18         $N_0032 0  0.001  
V_V14         p 0 15
V_V15         0 n 15
R_R20         $N_0033 b  1k  
X_U10         0 $N_0033 $N_0034 $N_0035 b uA741
V_V16         0 $N_0035 15
V_V17         $N_0034 0 15
R_R21         $N_0026 $N_0033  1k  
R_R22         $N_0039 $N_0038  1k  
X_U11         0 $N_0039 $N_0040 $N_0041 $N_0038 uA741
V_V18         0 $N_0041 15
V_V19         $N_0040 0 15
R_R23         m $N_0039  100k  
R_R24         $N_0044 k  1k  
X_U12         0 $N_0044 $N_0045 $N_0046 k uA741
V_V20         0 $N_0046 15
V_V21         $N_0045 0 15
R_R25         $N_0038 $N_0044  1k  
E_E1         $N_0032 0 $N_0007 0 10000
R_R6         $N_0006 $N_0007  1k  
R_R5         $N_0003 $N_0006  1k  
V_V2         m 0 90V
V_V1         a 0 80V
