* Schematics Netlist *



D_D1         $N_0001 $N_0002 D1N4001 
D_D2         $N_0003 $N_0004 D1N4001 
R_R3         $N_0002 $N_0005  1k  
R_R4         $N_0003 $N_0005  1k  
R_R5         $N_0005 $N_0006  1k  
X_U1         0 $N_0001 p n $N_0002 uA741
X_U4         0 $N_0004 p n $N_0003 uA741
X_U3         0 $N_0005 p n $N_0006 uA741
V_V5         p 0 15
V_V6         0 n 15
R_R6         $N_0014 $N_0013  1k  
V_V4         $N_0014 0 1
D_D4         $N_0013 $N_0015 D1N4001 
X_U5         0 $N_0013 p n $N_0015 uA741
R_R12         $N_0019 $N_0018  1k  
R_R13         $N_0018 $N_0020  1k  
D_D7         $N_0020 $N_0021 D1N4001 
X_U8         0 $N_0018 p n $N_0020 uA741
X_U9         0 $N_0021 p n $N_0024 uA741
X_U10         0 $N_0027 p n $N_0019 uA741
D_D8         $N_0027 $N_0019 D1N4001 
D_D9         $N_0030 $N_0031 D1N4001 
X_U11         0 $N_0030 p n $N_0031 uA741
R_R15         $N_0021 $N_0024  1k  
R_R16         $N_0034 $N_0030  1k  
R_R20         $N_0036 $N_0035  1k  
V_V7         $N_0036 0 -1
D_D10         $N_0037 $N_0035 D1N4001 
X_U13         0 $N_0035 p n $N_0037 uA741
R_R21         $N_0031 $N_0018  1k  
R_R22         $N_0037 $N_0018  1k  
R_R17         $N_0006 $N_0027  1k  
R_R11         $N_0041 $N_0040  1k  
X_U7         0 $N_0041 p n $N_0040 uA741
R_R9         $N_0045 $N_0044  1k  
X_U6         0 $N_0045 p n $N_0044 uA741
D_D6         $N_0044 $N_0041 D1N4001 
R_R26         $N_0049 $N_0048  1k  
X_U15         0 $N_0049 p n $N_0048 uA741
R_R27         $N_0040 $N_0049  1k  
R_R7         $N_0015 $N_0045  1k  
R_R14         $N_0024 $N_0045  1k  
V_V_Power         $N_0034 0 0.5V
R_R34         $N_0052 0  0.00001  
R_R2         $N_0053 $N_0004  1k  
V_V2         $N_0053 0 -1
R_R35         $N_0055 $N_0054  1k  
X_U19         0 $N_0055 $N_0056 $N_0057 $N_0054 uA741
V_V15         0 $N_0057 15
V_V16         $N_0056 0 15
R_R37         $N_0060 b  1k  
X_U20         0 $N_0060 $N_0061 $N_0062 b uA741
V_V17         0 $N_0062 15
V_V18         $N_0061 0 15
R_R38         $N_0054 $N_0060  1k  
R_R36         a $N_0055  10k  
E_E1         $N_0052 0 $N_0048 0 3.16227766
R_R1         b $N_0001  1k  
V_V_base         a 0 99
