* Schematics Netlist *



X_U4         $N_0001 $N_0002 $N_0003 $N_0004 $N_0005 uA741
R_Rs4         $N_0001 0  4.7k  
R_Rsf2         $N_0002 $N_0005  4.7k  
R_Rs1         q $N_0002  4.7k  
R_Rs3         b $N_0001  4.7k  
R_R42         $N_0008 b  1k  
X_U58         0 $N_0008 $N_0009 $N_0010 b uA741
V_V56         0 $N_0010 15
V_V57         $N_0009 0 15
X_U59         0 $N_0013 $N_0014 $N_0015 q uA741
V_V58         $N_0014 0 15
V_V59         0 $N_0015 15
R_R43         $N_0013 q  1k  
R_R44         p $N_0013  100k  
R_R45         a $N_0008  100k  
X_U60         0 $N_0018 $N_0019 $N_0020 $N_0021 uA741
R_R46         $N_0005 $N_0018  1k  
V_V16         $N_0003 0 15
V_V17         0 $N_0004 15
V_V60         0 $N_0020 15
V_V61         $N_0019 0 15
R_R49         $N_0024 0  0.00001  
E_E2         $N_0024 0 $N_0021 0 100
R_R47         $N_0018 $N_0021  1K  
V_V63         p 0 95V
V_V62         a 0 50V
